US07985762B2
2,3-Dihydrobenzofuran-7-carboxylic acid (820 mg, 5 mmol) was dissolved in THF (10 mL). To the solution was added TEA (0.7 mL, 5 mmol) and methylchloroformate (0.43 mL, 5 mmol). The solution was stirred for 0.5 hour. The white precipitates were removed by filtration, the filtrate was added to a solution of NaBH4 (437 mg, 12.5 mmol) in H2O (5 mL). The resulting solution was stirred overnight. The reaction mixture was neutralized with 2 M aqueous HCl solution and then extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous Na2SO4 and concentrated in vacuo. The crude alcohol was dissolved in DCM. To the solution was added PCC (1.83 g, 7.5 mmol). The mixture was stirred for 2 hours at room temperature and diluted with diethyl ether, then ether layers were decanted. Combined organic layer was filtered though a layer of Celite®. The filtrate was concentrated to give crude product. The crude was purified from column with 10% EtOAc/hexane to afford 450 mg of 2,3-dihydrobenzofuran-7-carbaldehyde as a slightly yellow solid. HPLC 4.3 min.

reactant | 2,3-Dihydrobenzofuran-7-carboxylic acid | 5 mmol, 820 mg | O1CCC2=C1C(=CC=C2)C(=O)O | C9H8O3
reactant | methylchloroformate | 5 mmol, 0.43 mL | COC(=O)Cl | C2H3ClO2
reactant | NaBH4 | 12.5 mmol, 437 mg | [BH4-].[Na+]
reactant | HCl | 2 M | Cl | ClH
reactant | PCC | 7.5 mmol, 1.83 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 5 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,3-dihydrobenzofuran-7-carbaldehyde | 450 mg | O1CCC2=C1C(=CC=C2)C=O | C9H8O2
